US09302989B2
N-(4-{[1-(tetrahydrofuran-2-ylmethyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 429, substituting tetrahydrofuran-2-carbaldehyde for isobutyraldehyde and N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, Pyridine-d5. Temp=90° C.) δ ppm 8.53-8.59 (m, 2H) 8.07 (s, 1H) 7.73 (d, J=9.16 Hz, 2H) 7.10 (d, J=5.49 Hz, 1H) 6.97-7.02 (m, 2H) 4.80-4.87 (m, 4H) 4.03 (d, J=11.60 Hz, 1H) 3.77-3.84 (m, 1H) 3.61-3.69 (m, 1H) 2.88 (d, J=41.81 Hz, 2H) 2.25-2.63 (m, 4H) 1.97 (s, 2H) 1.77-1.91 (m, 4H) 1.64-1.76 (m, 2H) 1.44-1.58 (m, 1H); MS (APCI(+)) m/e 423 (M+H)+.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N4O2
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
product | N-(4-{[1-(tetrahydrofuran-2-ylmethyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | O1C(CCC1)CN1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C24H30N4O3
